US07592373B2
1.1.a. 4-prop-1-ynylphenylamine
5.47 g (25 mmol) of 4-iodoaniline, 0.878 g (1.25 mmol) of bis-triphenylphosphine palladium dichloride, 0.47 g (2.5 mmol) of copper (I) iodide, and 20 mL of piperidine are placed in a pressure apparatus. Then 6.1 bar gaseous propyne are piped into the pressure apparatus, while the temperature rises to 39° C. It is therefore cooled with water. The mixture is stirred for 2 hours at ambient temperature and the reaction mixture is then extracted with ethyl acetate and water. The organic phase is dried over sodium sulfate, evaporated down, and the residue purified by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate (4:1)). Yield: 2.1 g (64% of theory); C9H9N (M=131.17); calc.: molecular ion peak (M+H)+: 132; found: molecular ion peak (M+H)+: 132.

reactant | 4-iodoaniline | 25 mmol, 5.47 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | piperidine | 20 mL | N1CCCCC1 | C5H11N
reactant | propyne | C#CC | C3H4
catalyst | copper (I) iodide | 2.5 mmol, 0.47 g | [Cu]I
solvent | water | O | H2O
product | 4-prop-1-ynylphenylamine | C(#CC)C1=CC=C(C=C1)N | C9H9N
